US04704459
In 4 ml of toluene was suspended 200 mg of ethyl 2-[2-(2,4-difluorophenylamino)-5-fluoro-6-hydroxynicotinoyl]acetate, and 200 mg of N,N-dimethylformamide dineopentylacetal was added thereto, after which the resulting mixture was subjected to reaction at room temperature for 4 hours. The crystals thus deposited were collected by filtration, and to the crystals were added 5 ml of ethanol and 5 ml of water, after which the pH thereof was adjusted to 1.0 with 2N hydrochloric acid. Thereafter, the crystals thus deposited were collected by filtration to obtain 155 mg (yield 75.4%) of ethyl 1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-7-hydroxy-4-oxo-1,8-naphthyridine-3-carboxylate having a melting point of 244°-248° C. The physical properties of this compound were identical with those of the compound obtained in Example 40.

reactant | ethyl 2-[2-(2,4-difluorophenylamino)-5-fluoro-6-hydroxynicotinoyl]acetate | 200 mg | FC1=C(C=CC(=C1)F)NC1=C(C(=O)CC(=O)OCC)C=C(C(=N1)O)F | C16H13F3N2O4
reactant | N,N-dimethylformamide dineopentylacetal | 200 mg | C(C(C)(C)C)OC(N(C)C)OCC(C)(C)C | C13H29NO2
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-7-hydroxy-4-oxo-1,8-naphthyridine-3-carboxylate | 155 mg, yield 75.4% | FC1=C(C=CC(=C1)F)N1C=C(C(C2=CC(=C(N=C12)O)F)=O)C(=O)OCC | C17H11F3N2O4
